US05523456
Step A: Preparation of N-(2(S)-(t-butoxycarbonylamino)-3(S)-methylpentyl)glycine methyl ester
Glycine methyl ester hydrochloride (4.41 g, 0.035 mol) was dissolved in 1,2-dichloroethane (50 mL) and DMF (5 mL) and treated with 3A molecular sieves (10 g) and N-t-butoxycarbonyl-isoleucinal (6.3 g, 0.029 mol) with stirring at 0° C. Sodium triacetoxyborohydride (9.27 g, 0.044 mol) was added, and the pH of the mixture was adjusted to 6 with triethylamine (3 mL, 0.022 mol). After stirring for 18 h the mixture was filtered, concentrated to a small volume and partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic phase was washed with aqueous saturated NaHCO3 solution, brine, and dried (Na2SO4). Filtration and concentration afforded a residue which was purified by flash chromatography (SiO2, EtOAc:hexane, 1:3) to give the title compound.

reactant | Glycine methyl ester hydrochloride | 0.035 mol, 4.41 g | Cl.COC(CN)=O
reactant | N-t-butoxycarbonyl-isoleucinal | 0.029 mol, 6.3 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C=O | C11H21NO3
reactant | Sodium triacetoxyborohydride | 0.044 mol, 9.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 0.022 mol, 3 mL | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(2(S)-(t-butoxycarbonylamino)-3(S)-methylpentyl)glycine methyl ester | COC(CNC[C@H]([C@H](CC)C)NC(=O)OC(C)(C)C)=O | C14H28N2O4
